US05750213
First, 3 g of bis(12-benzyloxydodecyl)methanol and 20 ml of pyridine were placed in a 100 ml flask. Then, 1.15 g of p-toluenesulfonylchloride was added to the reaction mixture. The reaction mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ether. The diluted mixture was washed with diluted hydrochloric acid, aqueous sodium bicarbonate, and water in this order, and then dried over anhydrous sodium sulfate. The solvent was distilled away, and the residue was recrystallized from acetone to obtain 1.6 g of bis(12-benzyloxydodecyl)methyl p-toluenesulfonate (Y: 42%). The compound thus obtained had a purity of 98.5% by HPLC.

reactant | bis(12-benzyloxydodecyl)methanol | 3 g | C(C1=CC=CC=C1)OCCCCCCCCCCCCC(O)CCCCCCCCCCCCOCC1=CC=CC=C1 | C39H64O3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonylchloride | 1.15 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ether | CCOCC | C4H10O
product | bis(12-benzyloxydodecyl)methyl p-toluenesulfonate | 1.6 g, 42% | C1(=CC=C(C=C1)S(=O)(=O)OC(CCCCCCCCCCCCOCC1=CC=CC=C1)CCCCCCCCCCCCOCC1=CC=CC=C1)C | C46H70O5S
